US05162351
3-Difluoromethylthio-1,2-benzoisothiazole
4.1 g (0.02 mol) Potassium 1,2-benzoisothiazole-3-thiolate was suspended in 25 ml dioxane and treated with a solution of 5.6 g (0.10 mol) potassium hydroxide in 9 ml water. At a temperature of 60°-70° C., a slow stream of chlorodifluoromethane was passed through over 30 minutes. The mixture was added to 500 ml ice/water and extracted several times with ethyl acetate. The organic phase was dried over magnesium sulphate, filtered and concentrated. The residual oil was purified by silica gel column chromatography (eluent: hexane/diethyl ether 9:1).

reactant | Potassium 1,2-benzoisothiazole-3-thiolate | 0.02 mol, 4.1 g | S1N=C(C2=C1C=CC=C2)[S-].[K+]
reactant | potassium hydroxide | 0.10 mol, 5.6 g | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 9 ml | O | H2O
product | 3-Difluoromethylthio-1,2-benzoisothiazole | FC(SC1=NSC2=C1C=CC=C2)F | C8H5F2NS2
